US04994569
Phenyl isocyanate (0.38 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (5RS, 6SR)-2-(4-ethoxyphenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (0.8 g) in 1,2-dichloroethane (10 cc). The solution obtained is heated to 80° C. for 3 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is purified by chromatography on silica (0.063-0.2 mm; 100 g), contained in a column 2 cm in diameter, collecting 20-cc fractions. Fractions 3 and 4, eluted with a mixture of cyclohexane and ethyl acetate (6:4 by volume), are concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is then purified again by chromatography on silica (0.063-0.2 mm; 100 g), contained in a column 2 cm in diameter, collecting 20-cc fractions. Fractions 5 to 10, eluted with a mixture of cyclohexane, ethyl acetate and triethylamine (65:30:5 by volume), are concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in ethyl acetate, (5RS, 6SR)-2-(4-ethoxyphenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (0.35 g), m.p. 80° C., is obtained.

reactant | Phenyl isocyanate | 0.38 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (5RS, 6SR)-2-(4-ethoxyphenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 0.8 g | C(C)OC1=CC=C(C=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C18H19NO3
solvent | 1,2-dichloroethane | 10 cc | ClCCCl | C2H4Cl2
product | (5RS, 6SR)-2-(4-ethoxyphenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 0.35 g | C(C)OC1=CC=C(C=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C25H24N2O4
